US05053427
c) 4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1benzopyran
To a solution of 4-azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (0.92g) in acetone (20 ml) was added concentrated hydrochloric acid (3 ml) and zinc dust (0.6g) in portions, with vigorous stirring. After 15 min the reaction was diluted with water, filtered and the filtrate extracted with ethyl acetate. The aqueous phase was made basic with 10% (w/v) aqueous sodium hydroxide solution and further extracted with ethyl acetate. The combined organic phase was dried over anhydrous sodium sulphate, filtered and the solvent evaporated in vacuo to give the title compound (0.69g).

reactant | 4-azido-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 0.92g | N(=[N+]=[N-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H12N4O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
catalyst | zinc | 0.6g | [Zn] | Zn
product | 4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1benzopyran | 0.69g | NC1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H14N2O
